US06331521B1
To a solution of 2-azido-4′-ethoxycarbonylactophenone (1.44 g), methanol (41.3 ml) and conc. hydrochloric acid (1.38 ml) was added 10% palladium-activated carbon (73 mg), and stirred for 3 hours in hydrogen atmosphere at 2.8 atm. After 1 hour, the reaction mixture was filtered off, and the filtrate was evaporated under reduced pressure. The solids were slurried in diisopropyl ether, and collected by filtration to give 2-amino-4′-ethoxycarbonylacetophenone hydrochloride (1.40 g).

reactant | 2-azido-4′-ethoxycarbonylactophenone | 1.44 g | N(=[N+]=[N-])CC(=O)C1=CC=C(C=C1)C(=O)OCC | C11H11N3O3
reactant | methanol | 41.3 ml | CO | CH4O
reactant | hydrochloric acid | 1.38 ml | Cl | ClH
solvent | hydrogen | [H][H] | H2
catalyst | palladium-activated carbon | 73 mg | [Pd] | Pd
product | 2-amino-4′-ethoxycarbonylacetophenone hydrochloride | 1.40 g | Cl.NCC(=O)C1=CC=C(C=C1)C(=O)OCC | InChI=1S/C11H13NO3.ClH/c1-2-15-11(14)9-5-3-8(4-6-9)10(13)7-12;/h3-6H,2,7,12H2,1H3;1H
